US07037905B2
2-(5-Chloro-2-methoxyphenyl)-5,5-dimethyl-[1,3,2]dioxaborinane
The title compound (86%, oil) was prepared from 5-chloro-2-methoxyphenylboronic acid and neopentylglycol.

reactant | 5-chloro-2-methoxyphenylboronic acid | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | neopentylglycol | CC(C)(CO)CO | C5H12O2
product | 2-(5-Chloro-2-methoxyphenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 86% | ClC=1C=CC(=C(C1)B1OCC(CO1)(C)C)OC | C12H16BClO3
